US05783522
3-Chloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine N-oxide (Table 5, Example I.802)
A solution of 4.5 g (14 mmol) of 3-chloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine and 9.7 g (31 mmol) of 3-chloroperbenzoic acid in 80 ml of methylene chloride was stirred at 23° C. for 4 days and then at 40° C. for 16 h. The mixture was then extracted with 100 ml of 10% strength aqueous sodium bisulfate solution, with 100 ml of a 10% strength aqueous sodium bicarbonate solution and three times with 80 ml of water each time. The organic phase was concentrated, and the residue was chromatographed on silica gel with cyclohexane/ethyl acetate (5:1). Yield: 3.6 g (76%) of colorless crystals; melting point: 156°-157° C.

reactant | 3-chloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine | 14 mmol, 4.5 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)OC | C13H8Cl2F3NO
reactant | 3-chloroperbenzoic acid | 31 mmol, 9.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloro-2-(4-chloro-3-methoxyphenyl)-5-trifluoromethylpyridine N-oxide | ClC=1C(=[N+](C=C(C1)C(F)(F)F)[O-])C1=CC(=C(C=C1)Cl)OC | C13H8Cl2F3NO2
